US09127003B2
Intermediate 25: (R)-tert-Butyl(1-(3-methoxy-4-(methylamino)-5-nitrobenzoyl)piperidin-3-yl)carbamate
To a solution of 3-methoxy-4-(methylamino)-5-nitrobenzoic acid (11.09 g, 49.0 mmol) and HATU (18.64 g, 49.0 mmol) in N,N-dimethylformamide (DMF) (300 mL) was added DIPEA (17.13 mL, 98 mmol) and the mixture stirred for 30 mins. Upon addition of the DIPEA the mixture went cloudy after ˜1 min with stirring. (R)-tert-Butyl piperidin-3-ylcarbamate (9.82 g, 49.0 mmol) was then added and stirred for 1.5 hr, after which time LCMS showed the reaction was complete. To 5 mL of the reaction mixture was added sat.aq. LiCl solution (5 mL) and Et2O (10 mL) and the layers separated. The aqueous layer was re-extracted with Et2O (2×10 mL), the combined organics were backwashed with water (10 mL), dried with Na2SO4, filtered and concentrated in vacuo to give the crude product as an orange gum. The gum was dissolved in the minimum amount of DCM and purified by Si SNAP 25 g column using a 50-100% ethyl acetate/cyclohexane. The appropriate fractions were combined and evaporated in vacuo before being azeotroped with cyclohexane and dried under vacuum to give the required product, 281 mg as an orange solid. The remaining reaction mixture was concentrated in vacuo to remove some of the DMF. Saturated aq.LiCl solution (300 mL) and Et2O (700 mL) were added and the mixture separated. The aqueous layer was re-extracted with Et2O (2×700 mL), the combined organic layers were backwashed with water (1 L), dried with Na2SO4, filtered and concentrated in vacuo to give the crude product as an orange gum. This was purified on a 340 g SNAP silica cartridge eluting with 30%-60% ethyl acetate in cyclohexane. Appropriate fractions were combined and concentrated in vacuo to yield the title compound as an orange solid (19.4 g).

reactant | 3-methoxy-4-(methylamino)-5-nitrobenzoic acid | 49.0 mmol, 11.09 g | COC=1C=C(C(=O)O)C=C(C1NC)[N+](=O)[O-] | C9H10N2O5
reactant | HATU | 49.0 mmol, 18.64 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 98 mmol, 17.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-tert-Butyl piperidin-3-ylcarbamate | 49.0 mmol, 9.82 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl(1-(3-methoxy-4-(methylamino)-5-nitrobenzoyl)piperidin-3-yl)carbamate | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(C1=CC(=C(C(=C1)[N+](=O)[O-])NC)OC)=O)=O | C19H28N4O6
